US09056844B2
Preparation 9: Di-tert-butyl (1R,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-(1H-1,2,4-triazol-3-ylsulfanyl)bicyclo[3.1.0]hexane-2,6-dicarboxylate
Potassium carbonate (1.45 g, 10.50 mmol) is added to 1H-1,2,4-triazole-3-thiol (424.79 mg, 4.20 mmol) and dimethylformamide (10.50 mL, 9.93 g, 135.80 mmol) at room temperature and stirred. After 5 minutes, di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (1.40 g, 2.10 mmol) is added to the reaction and stirred at 85° C. After 2 days, cool the reaction to room temperature, dilute with saturated sodium bicarbonate, then extract with ethyl acetate (3×). The combined organics are washed with water, brine, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by flash chromatography eluting with 5-75% ethyl acetate in hexanes to give the title compound (978.0 mg, 1.46 mmol, 69%). MS (m/z): 671/669 (M−1).

reactant | Potassium carbonate | 10.50 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1H-1,2,4-triazole-3-thiol | 4.20 mmol, 424.79 mg | N1N=C(N=C1)S | C2H3N3S
reactant | dimethylformamide | 135.80 mmol, 10.50 mL, 9.93 g | CN(C=O)C | C3H7NO
reactant | di-tert-butyl (1S,2R,3S,4R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 2.10 mmol, 1.40 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)OS(=O)(=O)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H41Cl2NO10S
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Di-tert-butyl (1R,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-(1H-1,2,4-triazol-3-ylsulfanyl)bicyclo[3.1.0]hexane-2,6-dicarboxylate | 1.46 mmol, 978.0 mg, 69% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)SC1=NNC=N1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H40Cl2N4O7S
